US05440036
4-Amino-3,4-dihydro-6-trifluoromethyl-2H-1,4-benzoxazine-2-spiro-cyclopropane
3,4-Dihydro-6-trifluoromethyl-2H-1,4-benzoxazine-2-spiro-cyclopropane (930 mg) was dissolved in 0.6 ml of acetic acid and 10 ml of methanol. Added dropwise to the resulting solution was a solution of 616 mg of sodium nitrite in 2 ml of water. The reaction mixture was stirred for 3 hours at room temperature, poured into water and then extracted with chloroform. The organic layer was washed with saturate saline and then dried over anhydrous magnesium sulfate. The chloroform was distilled off and the residue was dissolved in 1.1 ml of acetic acid and 12 ml of ethanol. Zinc powder (1.13 g) was added little by little, followed by stirring for 2 hours at room temperature. Insoluble substance was filtered off and the filtrate was concentrated. The residue was dissolved in chloroform. The solution so formed was successively washed with a 10% aqueous solution of sodium hydroxide, water and saturated brine and then dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was purified by silica gel chromatography, whereby 707 mg of the title compound were obtained (yield 71%).

reactant | 3,4-Dihydro-6-trifluoromethyl-2H-1,4-benzoxazine-2-spiro-cyclopropane | 930 mg | FC(C=1C=CC2=C(NCC3(CC3)O2)C1)(F)F | C11H10F3NO
reactant | sodium nitrite | 616 mg | N(=O)[O-].[Na+]
solvent | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 4-Amino-3,4-dihydro-6-trifluoromethyl-2H-1,4-benzoxazine-2-spiro-cyclopropane | 707 mg, yield 71% | NN1CC2(CC2)OC2=C1C=C(C=C2)C(F)(F)F | C11H11F3N2O
